US09056859B2
A mixture of tert-butyl ethyl (5-nitropyridin-2-yl)propanedioate (4.10 g, 13.2 mmol) in a mixed solution of TFA/DCM (4 mL/20 mL) was stirred for 5 hours at room temperature. The mixture was concentrated under reduce pressure. The residue was dissolved with DCM, washed with sat. NaHCO3, dried over anhydrous Na2SO4 and concentrated to give ethyl (5-nitropyridin-2-yl)acetate. 1H-NMR (400 MHz, CDCl3) δ 9.41 (s, 1H), 8.58 (d, J=8.4 Hz, 1H), 7.64 (d, J=8.4 Hz, 1H), 4.16 (q, J=7.2 Hz, 2H), 4.02 (s, 2H), 1.22 (t, J=7.2 Hz, 3H).

reactant | tert-butyl ethyl (5-nitropyridin-2-yl)propanedioate | 13.2 mmol, 4.10 g | [N+](=O)([O-])C=1C=CC(=NC1)C(C(=O)OC(C)(C)C)C(=O)OCC | C14H18N2O6
reactant | TFA DCM | 4 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | ethyl (5-nitropyridin-2-yl)acetate | [N+](=O)([O-])C=1C=CC(=NC1)CC(=O)OCC | C9H10N2O4
